US05385912
Step F: 1-azatricyclo[3.3.1.13,7 ]decane-4-one
Paraformaldehyde (2.2 g), in 320 ml 2% v/v H2SO4, is heated to boiling and 2.7 g (0.016 mole) of 8-aminomethyl-1,4-dioxaspiro[4,5]decane in 20 ml EtOH, is added over 4 hours. This mixture is then heated at reflux for 24 hours. The cooled reaction is washed with dichloromethane, then basified with 10N NaOH and extracted with dichloromethane. The combined extracts are dried over MgSO4 and stripped to dryness, giving 1.68 g (69%) of product.

reactant | Paraformaldehyde | 2.2 g | C=O | CH2O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | 8-aminomethyl-1,4-dioxaspiro[4,5]decane | 0.016 mole, 2.7 g | NCC1CCC2(OCCO2)CC1 | C9H17NO2
reactant | EtOH | 20 ml | CCO | C2H6O
product | 1-azatricyclo[3.3.1.13,7 ]decane-4-one | 1.68 g, 69% | N12CC3C(C(CC(C1)C3)C2)=O | C9H13NO
